US04070481
3.8 Parts of 2-dodecyl-3-hydroxy-5-methyl-1,4-naphthoquinone, 8parts of acetic anhydride and 32 parts of pyridine were stirred at room temperature for 16 hours. The resulting mixture was evaporated under reduced pressure to remove the pyridine. The residue was recrystallized from methanol to give 2.5 parts of 3-acetoxy-2-dodecyl-5-methyl-1,4-naphthoquinone, m.p. 69°-74° C.

reactant | 2-dodecyl-3-hydroxy-5-methyl-1,4-naphthoquinone | C(CCCCCCCCCCC)C=1C(C2=CC=CC(=C2C(C1O)=O)C)=O | C23H32O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-acetoxy-2-dodecyl-5-methyl-1,4-naphthoquinone | C(C)(=O)OC1=C(C(C2=CC=CC(=C2C1=O)C)=O)CCCCCCCCCCCC | C25H34O4
